US04912219
19 g (0.09 mole) of ethyl 4-piperidylcarbamate hydrochloride is solubilized in 120 ml of methanol and neutralized with 17.2 ml of 5.3N sodium methylate. The mixture is filtered and the filtrate evaporated to dryness. The evaporation residue is then mixed with 21.6 g (0.083 mole) of 2-chloro-1-[(4-fluorophenyl)methyl]-1H-benzimidazole and heated to 140° C. for 5 hours. The reaction mass is taken up with methylene chloride and alkalinized with 2N sodium hydroxide. The organic phase is washed with water, dried, filtered and evaporated. The oil obtained is chromatographed on silica (eluent: methylene chloride/methanol, 97.5:2.5). Ethyl[1-{1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl}-4-piperidyl]carbamate is obtained.

reactant | ethyl 4-piperidylcarbamate hydrochloride | 0.09 mole, 19 g | Cl.N1CCC(CC1)NC(OCC)=O
reactant | sodium methylate | 5.3N, 17.2 ml | C[O-].[Na+]
reactant | 2-chloro-1-[(4-fluorophenyl)methyl]-1H-benzimidazole | 0.083 mole, 21.6 g | ClC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C14H10ClFN2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | 120 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl[1-{1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl}-4-piperidyl]carbamate | C(C)OC(NC1CCN(CC1)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | C22H25FN4O2
